US08048862B2
A solution of 3-tert-butoxycarbonylaminopropanoic acid (2 g, 10.6 mmol.) and HOSu (1.22 g, 10.6 mmol.) in 40 mL DCM/Dioxane (2:1) was cooled in an ice bath. To this solution was added DCC (2.4 g, 11.6 mmol.), and the mixture was stirred at room temperature for 1 h. To the resulting mixture was added benzylamine (1.7 g, 15.8 mmol.), the mixture was stirred for 4 h at room temperature. The solid that formed in the mixture was removed by filtration and washed with EtOAc. The filtrate and washings were combined and washed with 1N HCl and saturated aqueous NaHCO3. The organic layer was dried over Na2SO4, filtered and concentrated to afford 3-tert-butoxycarbonylamino-N-benzylpropionamide (2.4 g, 82%). 3-tert-Butoxycarbonylamino-N-benzylpropionamide was dissolved in cooled HCl/MeOH (20 mL) and the resulting mixture was stirred at room temperature for 1.5 h. The solvent was removed to afford 3-amino-N-benzylpropionamide hydrochloride (1.8 g, 100%).

reactant | 3-tert-Butoxycarbonylamino-N-benzylpropionamide | C(C)(C)(C)OC(=O)NCCC(=O)NCC1=CC=CC=C1 | C15H22N2O3
reactant | HCl MeOH | 20 mL | Cl.CO
product | 3-amino-N-benzylpropionamide hydrochloride | 1.8 g, 100% | Cl.NCCC(=O)NCC1=CC=CC=C1 | InChI=1S/C10H14N2O.ClH/c11-7-6-10(13)12-8-9-4-2-1-3-5-9;/h1-5H,6-8,11H2,(H,12,13);1H
